US07674819B2
The preparation of (±)-4-(4,4-Dimethyl-2-oxo-tetrahydro-furan-3-yloxy)-2-trifluoromethyl-benzonitrile
To a stirring solution comprised of (R)-(−)-pantolactone (44.7 g; 336 mmol) in tetrahydrofuran (625 mL) at 0° C. under a nitrogen atmosphere was added a 60% sodium hydride mineral oil dispersion (14.1 g; 352 mmol) directly in portions. Upon the completion of hydrogen gas liberation, 4-fluoro-2-trifluoromethylbenzonitrile solid (59.0 g; 312 mmol) was added directly. The reaction mixture was allowed to warm slowly to ambient temperature overnight. The reaction mixture was neutralized with saturated aqueous ammonium chloride (500 mL.) The mixture was extracted with ethyl acetate (800 mL) and the layers were separated. The organic layer was dried over anhydrous magnesium sulfate and was concentrated in vacuo to afford 99.83 g of a beige solid. The solid was recrystallized from absolute ethanol (300 mL) to afford 81.56 g of an off-white crystalline solid; 1H-NMR (400 MHz; CDCl3) δ 7.78 (dd, 1H, J=8.6, 0.4 Hz), 7.43 (d, 1H, J=2.5 Hz), 7.31 (dd, 1H, J=8.6, 2.7 Hz), 4.67 (s, 3H), 4.17 (d, 1H, J=9.0 Hz), 4.10 (d, 1H, J=9.0 Hz), 1.29 (s, 6H); 19F-NMR (376 MHz; CDCl3) δ-62.70 (s, 3F).

reactant | (R)-(−)-pantolactone | 336 mmol, 44.7 g | CC1(COC(=O)[C@@H]1O)C | C6H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-fluoro-2-trifluoromethylbenzonitrile | 312 mmol, 59.0 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 625 mL | O1CCCC1 | C4H8O
product | (±)-4-(4,4-Dimethyl-2-oxo-tetrahydro-furan-3-yloxy)-2-trifluoromethyl-benzonitrile | 99.83 g | CC1(C(C(OC1)=O)OC1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H12F3NO3
